US04355164
3-Amino-2-[2-(4-chlorophenylsulfonyl)-acetyl]-6-methyl-thieno[2,3-b]-pyridine
To a mixture of 5.4 g (0.1 mol) of sodium methoxide and 7.5 g (0.05 mol) of 2-mercapto-3-cyano-6-methyl pyridine in 100 ml methanol was slowly added 13.3 g (0.05 mol) of 3-chloro-1-(4-chloro-phenylsulfonyl)-2-propanone. The reaction mixture was refluxed for 7 hours. It was then cooled, diluted with water and filtered to give 15.5 g of crude product which was crystallized from acetonitrile to give 12.8 g of pure product, m.p. 265°-7° C.

reactant | sodium methoxide | 0.1 mol, 5.4 g | C[O-].[Na+]
reactant | 2-mercapto-3-cyano-6-methyl pyridine | 0.05 mol, 7.5 g | SC1=NC(=CC=C1C#N)C | C7H6N2S
reactant | 3-chloro-1-(4-chloro-phenylsulfonyl)-2-propanone | 0.05 mol, 13.3 g | ClCC(CS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C9H8Cl2O3S
solvent | methanol | 100 ml | CO | CH4O
solvent | water | O | H2O
product | 3-Amino-2-[2-(4-chlorophenylsulfonyl)-acetyl]-6-methyl-thieno[2,3-b]-pyridine | 12.8 g | NC1=C(SC2=NC(=CC=C21)C)C(CS(=O)(=O)C2=CC=C(C=C2)Cl)=O | C16H13ClN2O3S2
